Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Depression and anxiety getting out of control due to a recent a
medical prescription by a doctor."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with no significant PMHx, no
formal psychiatric diagnoses, no prior psychiatric
hospitalizations, and no prior SA/SI, but with extensive
self-reported history of trauma who presents to ___ ___ per
encouragement of her outpatient psychiatrist due to worsening
"mental meltdowns" and SI with plan to overdose on medication.

Per Dr. ___ ___ ___ Initial Psychiatry Consult note:
"On interview, Ms. ___ reports seeing a new psychiatrist and 
being
started on Wellbutrin 4 days ago, which led to prolonged and
worsened periods of heightened anxiety and sadness, with
flashbacks of past trauma, along with low energy and numerous,
recently-amplified negative thoughts and feelings of
worthlessness, hopelessness, and emptiness. She recently
experienced several such episodes (most severe being night prior
to presentation after watching a video about anxiety), with
significant SI with intent and multiple plans. She described 
that
overdosing on her Wellbutrin would be "the easiest way", saying
that she thought about cutting her wrists, but "there were no
razors around", and also thought about jumping out of the 
window,
but "you can't die from the ___ floor". Patient described that
the only barrier to committing suicide was the presence of her
boyfriend by her side; could not identify any other protective
factors. She denies current suicidal ideation, but she did
express significant concern about her current state of mind
(which she attributes to the Wellbutrin) and expressed that she
is unsure whether she would be safe at home without her 
boyfriend
(boyfriend will be returning to ___ for school).

Patient denied changes in sleep: she sleeps from 3 AM to 10 AM -
12 ___, saying that she is "scared" to go to sleep at night
because of being alone. She denies changes in motivation,
concentration, or memory, saying that she is currently doing 
well
in school. She denied changes in appetite or weight. Denied
anhedonia, saying that she still enjoys shopping, watching
movies, photography, and working in fashion.

Patient described history of "mental meltdowns", with strong
feelings of sadness and numerous negative feelings, but she
described being able to get herself out of those states. She
describes that being started on Welbutrin 4 days ago has 
improved
her energy level, but these "meltdowns" became more severe after
she was started on Welbutrin. Ms. ___ also endorses a history of
panic attacks, which she describes as significantly more severe
that the "meltdowns", saying that her panic attacks involve
racing thoughts, SOB, feeling jittery, feeling "like I'm going
crazy" and a very strong need to escape the situation. Ms. ___
reports 2-hour episodes of better mood and higher energy every
___ days, but describes that she still has negative,
self-deprecating thoughts during those times.

Patient reports episodes of depression, with low mood, poor
motivation, and inability to leave her house since her senior
year of high-school, when she was rejected from all of the
colleges that she wanted to attend. Until now, the worst episode
had been in ___, when she also experienced SI. At
that time, she decided to take a semester off from ___ and
participate in 2 internships in ___, which significantly 
improved
her symptoms. Her symptoms worsened again after she returned to
school in the Fall of this year. She describes that her main
psychosocial stressors are her dislike of her ___ material
and her inability to perform well in school. She also describes
difficulty establishing relationship with peers and an extensive
history of trauma, which includes a very challenging upbringing
by her parents along with history of emotional, physical, and
sexual trauma (patient was unable to provide any details).
Patient also reports significant anxiety around numerous topics
(she thinks she is "not talented enough, not pretty enough, not
healthy enough, unable to fit in".

COLLATERAL-Boyfriend ___, ___, at bedside

With patient's permission, spoke with boyfriend in private.
Patient boyfriend described being in a relationship with the
patient for ___ years, but knowing each other since high school. 
He
described her as more social and engaging with people more in 
the
past, but explains that patient has become more isolative and
more anxious about her inadequacies and her future in the past ___
years; this is the same time when patient started to experience
panic attacks with inability to breathe.

Boyfriend believes that this stems from the patient's upbringing
and her not feeling valued by her parents. Boyfriend describes
that patient usually does well during the day, but at night she
always experiences numerous negative thoughts about low
self-esteem and sometimes experiences panic attacks because of
that. However, he described that he is always able to provide
support and help the patient feel better but that last night 
"was
something different".

He described that the patient has never experienced such
significant distress and boyfriend expressed concern regarding
her recent suicidal thoughts and mentioning of multiple plans, 
to
the point where he was afraid to take his eyes off of the 
patient
because he was afraid for her safety. Boyfriend expressed being
concerned about patient's safety in the setting of her new
medication and worsened symptoms.

Boyfriend believes that patient's struggles stem from the fact
that she enjoys fashion, but doesn't enjoy her ___ 
experience
___ was not one of the patient's top choices) and
does not feel like her interests in fashion are respected and
valued by others; in addition, patient is experiencing a lot of
stress from her schoolwork. Boyfriend believes that patient's
symptoms improved during her internships because she was being
appreciated and it provided a boost in self-esteem.

Boyfriend also described that patient tried to find a
psychiatrist when she realized that her return to school is very
challenging. However, she felt let down by her current
psychiatrist who initially did not pick up her phone overnight,
and today sent the patient directly to the ___ patient was 
hoping
to see the psychiatrist as outpatient."

In the ___, the patient displayed good behavioral control and did
not require physical or chemical restraints.

On interview today, patient reports that she is feeling "very
anxious". States that she feels this way due concerns that she
may not be able to take her exams on time, as well as the fact
that she is not at home (states that she prefers to be by 
herself
and alone in her apartment), and not having her family/boyfriend
close by. Denies having any panic attacks since the presentation
in the ___. Since being on the unit states that "I can't 
guarantee
that I feel safe" as she is concerned that when she becomes
severely anxious, "I don't know what to do". However, when asked
to clarify if this means that she has concerns of SIB or SI,
denies. Denies past SA/SI/SIB.

Endorses depressed mood, very low energy (as of the last ___
years), sleep disturbance (for the last ___ years, usually going 
to
bed at 4 AM due to anxiousness; she gets "scared to go to bed";
running on 3 hours of sleep on some nights and on other nights
sleeping for 11 hours), psychomotor retardation (feels as if 
body
is heavier and slower since starting school in ___.

Endorses anxiety symptoms of restlessness, intrusive thoughts
(constantly comparing self to others in terms of attractiveness,
wealth, talent), panic attacks (last one was at presentation to
___ per HPI above), and feeling like when she is alone she is
being pursued by others (but clarifies that this is not a
delusion and that she knows she is not being pursued).

Also endorses somatic symptoms of cold intolerance, headache
(every day) mild one currently 2 out of 10 feels temples
bilaterally and posterior aspect of head, episodic changes in
vision/hearing (last episode was one week ago, occurring once a
day or once every 2 days, suddenly starts, feels as if she is
being in a cloud, lasting for 10 minutes during which vision 
gets
blurry, hearing becomes dull, these episodes have been ongoing
for ___ years), polydipsia (1 week, have been drinking more than
usual but denies polyuria), acne flareup since Wellbutrin (but 
is
unsure if this was due to azithromycin as she took them at a
similar time).

States that she has an extensive history of trauma. Emotional
trauma from parents: patient feels that she was very intelligent
as a kid, did well on standardized tests and primary and
elementary school but that throughout the years her parents 
never
validated her intelligence and made her always feel subpar.
Mother made patient be her best friend and kept her mostly at
home during her free time which isolated from her friends. Feels
like this affected her ability to interact with other children.
Mother wanted pt to be a ___, so parents didn't
really train her in math/science but more in arts; however, in
high school parents started saying people who go to art school
are stupid, "you shouldn't go" which left the patient feeling
that she was not good at what her parents were now telling her 
to
go into. Feels that she never got validation from parents
regarding being an intelligent person and over the years this 
has
become a significant "trauma" to the patient.

Also reports that she had kleptomania in primary school for (at 
___
yo) for ___ years when she would steal things from classmates.
Reports how traumatic and humiliating it was when her mother
found out and made her return all the items she stole to her
classmates.

Also reports history of bullying in primary school largely due 
to
socioeconomic differences with her classmates. In middle school
her parents told her not to socialize with any of her classmates
which led to her being isolated and she felt bullied. Also notes
that when she attended boarding school in ___, she was bullied 
due
to language/cultural barriers as most of the school
staff/students were ___. States that these were traumatic
events for her.

Also reports physical trauma: dad would hit pt, smashed things 
at
her, would raise her and hit her on the ground, smash her laptop
- these acts occurred when she was ___ or ___ yo. They also made the
patient in the bathroom or corner as a punishment. This kept on
for ___ years. Stopped when she became a teenager.

Sexual: When ___ yo, was at public entertainment facility in an
___, two older men put their hands in her dress. When in
middle school, ___ teacher tried to get patient's phone
number and was touching pt's hand ___ grade). In middle school,
when going to a karaoke in ___ ___ in class forced a kiss
and tried to touch her while his friends were watching. Patient
reports that all of the above reported incidents have been
traumatic to her and believes that they have contributed to the
depression and anxiety she experiences.

REVIEW OF SYSTEMS:
- Psychiatric: 
     - Depression: As per HPI above
     - Anxiety: As per HPI above
     - Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech
     - Psychosis: Denies symptoms of psychosis such as auditory
or visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal

- General: Denies fever, chills, nightsweats, focal numbness,
focal weakness, heat intolerance,cough, SOB, CP, palpitations,
abdominal pain, nausea, vomiting, diarrhea, constipation, 
melena,
dysuria, increased urinary frequency, rash, joint pain, muscle
pain, edema, bruising, bleeding.
 
Past Medical History:
[Extracted from Dr. ___ Consult 
note,
reviewed with patient, and updated as appropriate.]
-Prior diagnoses: Patient thinks that Dr. ___ 
was
suspecting major depression
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Dr. ___ patient only saw Dr.
___ one session last week. Patient saw a psychiatrist
in ___ last year, for 3 session, but was not prescribed any
medications at that time and felt like those sessions were "not
helpful"
-Therapist: Last time she met with a therapist was when she met
with high school counselor, who recommended exercise, drinking
water, and sun exposure
-Medication trials: no meds prior to taking Wellbutrin in past 4
days
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Access to weapons: Denies
-Trauma: See above HPI

PAST MEDICAL HISTORY:
-Reports recent diagnosis and treatment of chlamydia (diagnosed
during Green Card physical exam)
-Denies history of head trauma, seizure.

**PCP: ___
Denies history of head trauma, seizure.

 
Social History:
SUBSTANCE USE HISTORY:
-Tobacco: 2 cigarettes/week, ___ years
-Alcohol: 3 tiems a week, one or two drinks wine/cocktail/week;
got blackout drunk in middle school multiple times after
drinking, Denies history of alcohol withdrawal,DTs, seizures.
-Marijuana: Denies
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
-Born/Raised: Born in ___, moved to ___. in ___ grade.
-Relationship status/Children: Boyfriend for ___ years; family
consists of mom, dad, pt
-Primary Supports: Boyfriend, ___ (who lives in ___, where he attend ___. "sometimes, my mom", but
explains that it is not very common as her parents live in
___. Mom is currently in ___. Father came from ___ to
provide support and mother is also planning to fly back to ___.
soon.
-Housing: Lives by herself in apartment that she leases from a
friend of hers who is attending ___ in ___. 
-Education: Describes her "primary school" experience as
"malicious competition between parents and between students" and
her middle school experience as "horrible" due to not fitting in
and her mother not allowing her to spend time with the other 
kids
because they were "not worthy". She then went to boarding school
in ___ (her parents lived in ___). She reports wanting to go into
fashion because her mom was interested in fashion but was never
able to achieve those career goals; this is why the patient is
studying Art History and ___ at ___. However,
patient reports feeling discouraged when her mother called 
people
who go to art school "stupid" 
-Employment/Income: Not currently employed. Supported 
financially
by parents
-Spiritual: Denies
-Military History: ___
-Access to weapons: denies
 
Family History:
-Psychiatric Diagnoses: Patent is not aware of any.
-Substance Use Disorders: Patent is not aware of any.
-Suicide Attempts/Completed Suicides: Patent is not aware of 
any.
 
Physical Exam:
VITAL SIGNS:
T: 98.7, BP: 114/73, HR: 76, SpO2: 98%RA, RR:16

EXAM:
General:
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout
- Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales
- Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness
- Extremities: Warm and well-perfused.  No edema of the limbs
- Skin: No rashes or lesions noted

Neurological:
- Cranial Nerves:
     - I: Olfaction not tested
     - II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: Facial sensation intact to light touch in all
distributions
     - VII: No facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: Hearing intact to finger rub bilaterally
     - IX, X: Palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. Strength ___ throughout
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention
tremor noted
- Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent

Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: MOYb with 0 errors
- Orientation: Oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): Not tested
- Memory: ___ registration, ___ recall after 5 ___
grossly intact
- Fund of knowledge: Consistent with education; intact to last 3
presidents
- Calculations: 7 quarters = "$1.75"
- Abstraction: Interprets "don't just a book by its cover" as
"don't judge people based on appearance"
- Visuospatial: Not assessed
- Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
- Appearance: ___ yo Asian F appearing stated age, well groomed,
wearing hospital gown, in no apparent distress, well nourished
and hydrated
- Behavior: Sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, friendly
- Mood: "I'm very anxious"
- Affect: Mood-congruent, full range, appropriate to situation
- Speech: Normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies SI/HI    
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: Limited
- Judgment: Poor

CONDITION ON THE DISCHARGE DAY:
Mental Status:
- Appearance: ___ yo Asian female appearing stated age, good
hygiene and grooming, casaully dressed, wearing a denim jacket 
and slim-fitting
pants, has makeup on face, in no apparent distress, appears
well nourished and hydrated
- Behavior: Friendly, cooperative with assessment. No 
psychomotor agitation or retardation, appropriate eye contact, 
smiling
- Attitude: Cooperative, engaged
- Mood: "Good...things are great"
- Affect: Mood congruent, euthymic, full range, smiling and
laughing when speaking about certain topics (appropriate
reaction)
- Speech: spontaneous, fluent, normal rate, volume, and tone
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies SI/HI
     - Delusions: No evidence of paranoia, etc. 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight: Good
- Judgment: Good
 
 
Pertinent Results:
___ 10:11PM URINE  HOURS-RANDOM
___ 10:11PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:11PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 10:11PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG*
___ 10:11PM URINE  RBC-2 WBC-15* BACTERIA-FEW* YEAST-NONE 
EPI-16
___ 08:50PM   GLUCOSE-85 UREA N-10 CREAT-0.7 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-24 ANION GAP-14
___ 08:50PM   estGFR-Using this
___ 08:50PM   CHOLEST-171
___ 08:50PM   VIT B12-752 FOLATE-13
___ 08:50PM   %HbA1c-5.2 eAG-103
___ 08:50PM   TRIGLYCER-83 HDL CHOL-62 CHOL/HDL-2.8 
LDL(CALC)-92
___ 08:50PM   TSH-2.9
___ 08:50PM   HCG-<5
___ 08:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:50PM   WBC-6.6 RBC-4.52 HGB-13.8 HCT-41.0 MCV-91 
MCH-30.5 MCHC-33.7 RDW-12.0 RDWSD-39.9
___ 08:50PM   NEUTS-59.1 ___ MONOS-5.6 EOS-0.6* 
BASOS-0.5 IM ___ AbsNeut-3.93 AbsLymp-2.25 AbsMono-0.37 
AbsEos-0.04 AbsBaso-0.03
___ 08:50PM   PLT COUNT-320

 
Brief Hospital Course:
Ms. ___ is a ___ year old female ___ student, with no 
significant past medical history, reported past psychiatric 
history of depression, no past psychiatric inpatient 
hospitalizations and no past suicide attempts, who presented to 
the ___ ___ with her boyfriend after experiencing a prolonged 
"panic attack" with suicidal ideation after 4 days of initiating 
Wellbutrin.
.
On interview at the time of admission, the patient was endorsing 
symptoms of major depressive disorder including poor 
concentration, low energy, sleep disturbance, depressed mood, 
isolation, anhedonia, psychomotor retardation and low 
self-worth. She also endorsed symptoms in line with a panic 
attack in terms of her presentation of a "mental breakdown", 
during which she experienced palpitations, severe anxiety, 
shortness of breath, and tremulousness. The patient also had an 
extensive self-reported trauma history since childhood 
throughout development, and also appeared to have somatic 
complaints such as episodic blurred vision and decreased 
hearing.
.
Diagnostically, the presenting symptoms were supportive of a 
depressive mood disorder and an anxiety disorder. Upon exam and 
per history, there were no pertinent findings supporting current 
or past episodes of mania or psychosis. The patient denied any 
recent substance use and her tox screen was negative, suggesting 
that a substance-induced mood disorder or agitation was 
unlikely. Finally, while the patient did have some physical 
findings mildly concerning for an organic etiology such as 
intolerance to cold, low blood pressure, somatic complaints of 
hands/feet feeling clammy/cold, and acne, labs including TSH, 
B12, folate were within normal limits.
.
DSM V Diagnoses:
-Major depressive disorder, recurrent, severe, with anxious 
distress
-PTSD
.
#Legal/Safety: Patient was admitted to the ___ inpatient 
psychiatric unit on a ___. Upon admission, she signed a 
Conditional Voluntary form which was accepted. She maintained 
her safety on the unit with 15 minute checks and access to 
monitored sharps. Patient remained in good behavioral control, 
was cooperative with the treatment team and staff, and did not 
require physical or chemical restraint.
.
#Depression/Anxiety: Treatment team discussed risks and benefits 
of initiating pharmacotherapy with Zoloft 25 mg po daily and 
risperidone 0.25 mg po qhs. Patient's home regimen of Wellbutrin 
was held as there were concerns that due to patient's underlying 
anxiety, the stimulating effects of Wellbutrin may have been a 
problematic component leading to her presentation. Patient 
verbalized understanding of the risks and benefits of holding 
Wellbturin and initiating Zoloft/risperidone, and patient 
expressed agreement with start the medications. Patient 
tolerated the medications well without adverse effects and 
reported improvements in mood, decrease in anxiety peaks 
throughout the day, less ruminative thinking on self-critical 
thoughts/beliefs, and increased energy and decreased psychomotor 
retardation. Patient was instructed to make sure to follow-up 
with her outpatient psychiatrist as risperidone was initiated to 
be a temporary medication and that she should expect to taper 
off completely of the risperidone by working with her outpatient 
psychiatrist.
On the discharge day (___), Ms. ___ reported that she is 
doing "better". She reported:"Things are great". She reports 
that her condition improved. She feels less depression. She 
reports that residual anxiety is still present. However, it is 
at a manageable level. She placed level of anxiety at 4 on scale 
from 0-none to 10-the worst anxiety.
She denied any physical complains. Denied pain/N/V/D/C.

On day of discharge, patient was noted to have a bright, 
euthymic affect, with full range appropriate to situation, as 
well as linear goal and future oriented thinking. She expressed 
optimism regarding her discharge and was also noted to be 
attending to her ADLs and iADLs, participating in groups, 
engaging with the treatment team and staff, and having multiple 
visits/discussions with her father and boyfriend. Patient has 
denied suicidal ideation/homocidal ideation and audiovisual 
hallucinations. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 75 mg PO DAILY depression 

 
Discharge Medications:
1.  Nicotine Polacrilex 1 STCK PO Q1H:PRN tobacco cravings 
RX *nicotine (polacrilex) [Nicorette] 2 mg 1 stick q1h Disp 
#*100 Gum Refills:*0 
2.  RisperiDONE 0.25 mg PO QHS anxiety/mood 
RX *risperidone 0.25 mg 1 tablet(s) by mouth at bedtime Disp 
#*14 Tablet Refills:*0 
3.  Sertraline 25 mg PO DAILY depression 
RX *sertraline 25 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder with anxiety symptoms

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts
Level of consciousness: Alert and interactive
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please, continue working with your outpatient providers on 
adjusting your medications. As we discussed, please, check with 
your psychiatrist about possibility of tapering Risperdal when 
your condition stabilizes.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___